US06429221B1
a) 3′,4′-Dimethoxyacetophenone oxime
A solution of hydroxylamine hydrochloride (3.33 grams, 48 mmol) and sodium acetate (4.92 grams, 60 mmol) in 20 milliliters of water was added to a stirring solution of 3′,4′-dimethoxyacetophenone (5.41 grams, 30.0 mmol) in a mixture of water (30 milliliters) and ethanol (30 milliliters), the solution was stirred overnight. The resulting mixture was filtered and the solid was dried in vacuo (60° C., <1 mm) to afford 4.68 grams (80%) of product as a yellow solid: mp 137-138° C.; 1H NMR (CDCl3) δ7.34-7.08 (m, 2H), 6.94-6 80 (m, 1H), 3.92 (s, 3H ), 3.90 (s, 3H), 2.28 (s , 3H); 13C NMR (CDCl3) δ155.6, 150.1, 148.8, 129.2, 119.2, 110.6, 108.6, 55.8.

reactant | hydroxylamine hydrochloride | 48 mmol, 3.33 grams | Cl.NO
reactant | sodium acetate | 60 mmol, 4.92 grams | C(C)(=O)[O-].[Na+]
reactant | 3′,4′-dimethoxyacetophenone | 30.0 mmol, 5.41 grams | COC=1C=C(C=CC1OC)C(C)=O | C10H12O3
solvent | water | 20 milliliters | O | H2O
solvent | water | 30 milliliters | O | H2O
solvent | ethanol | 30 milliliters | C(C)O | C2H6O
product | 3′,4′-Dimethoxyacetophenone oxime | 4.68 grams, 80% | COC=1C=C(C=CC1OC)C(C)=NO | C10H13NO3
